US09120749B2
tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 2,5-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (85 mg, 0.300 mmol) to afford the crude product (57 mg) as a white solid: ESI MS m/z 570 [C30H33Cl2N3O4+H]+.

reactant | tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
reactant | 2,5-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.300 mmol, 85 mg | ClC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 57 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=C(C=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O4
